US06534489B1
5-(3-Pyridyl)-2-pentanone (5a):
(according to J. W. Tilley, P. Levitan, J. Lind, A. F. Welton, H. J. Crowley, L. D. Tobias, M. O'Donnell J. Med. Chem. 1987, 30, 185-93; Swern oxidation of the alcohol) 59.5 ml of oxalyl chloride in 1.4 l of absolute dichloromethane are cooled to −60° C. and 96 ml of absolute DMSO (dissolved in 280 ml of absolute dichloromethane) are slowly added dropwise. After 15 minutes' stirring at −60° C., 93 g of 5-(3-pyridyl)-2-pentanol in 470 ml of the same solvent are added dropwise at ˜60° C. After 20 minutes' stirring, 396 ml of triethylamine are slowly added, the mixture stirred for a further 20 minutes at −60° C. and allowed to rise to room temperature. The reaction solution is finally poured into 700 ml of iced water, which has previously been combined with NaOH pellets. Once the phases have separated, the aqueous, alkaline phase is extracted 3 times with 300 ml portions of dichloromethane, the combined organic phases are washed 4 times with 500 ml portions of water, dried over potassium carbonate and evaporated. After distillation, 5a of b.p. 98-104° C., 3·101 Pa (0.2 Torr) is obtained in good yield.

reactant | oxalyl chloride | 59.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 96 ml | CS(=O)C | C2H6OS
reactant | 5-(3-pyridyl)-2-pentanol | 93 g | N1=CC(=CC=C1)CCCC(C)O | C10H15NO
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | 1.4 l | ClCCl | CH2Cl2
solvent | water | 700 ml | O | H2O
solvent | triethylamine | 396 ml | C(C)N(CC)CC | C6H15N
product | 5-(3-Pyridyl)-2-pentanone | N1=CC(=CC=C1)CCCC(C)=O | C10H13NO
